US07960425B2
Synthesis of 5-{1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic Acid 2-methoxyethylamide
To 1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethanone (50 mg, 0.18 mmol) and 5-hydrazinocarbonylthiophene-2-carboxylic acid 2-methoxyethylamide (64 mg, 0.26 mmol) prepared in Reference Synthetic Example 5 in dimethylformamide (0.88 mL), concentrated hydrochloric acid (15 μL, 0.18 mmol) was added at room temperature, and the resulting mixture was stirred for 15 hours. After the reaction, water was added, and the resulting crystals were recovered by filtration and dried. Chloroform was added, and the resulting crystals were recovered by filtration to give 59 mg of the desired product (yield 66%).

reactant | 1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethanone | 0.18 mmol, 50 mg | OC=1C(=NN(C1C1=CC=C(C=C1)C(F)(F)F)C)C(C)=O | C13H11F3N2O2
reactant | 5-hydrazinocarbonylthiophene-2-carboxylic acid 2-methoxyethylamide | 0.26 mmol, 64 mg | COCCNC(=O)C=1SC(=CC1)C(=O)NN | C9H13N3O3S
reactant | hydrochloric acid | 0.18 mmol, 15 μL | Cl | ClH
reactant | water | O | H2O
solvent | dimethylformamide | 0.88 mL | CN(C=O)C | C3H7NO
product | 5-{1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic Acid 2-methoxyethylamide | 59 mg, yield 66% | COCCNC(=O)C=1SC(=CC1)C(=O)NN=C(C)C1=NN(C(=C1O)C1=CC=C(C=C1)C(F)(F)F)C | C22H22F3N5O4S
